US05635477
Part D--To a solution of sodium hypochlorite (330 mL, 17.32 g, 0.234 mol) in a solution of sodium hydroxide (50%, 172 mL), warmed to 55° C., was added, portionwise as a solid, 4-acetylphenylbutyric acid (16.0 g, 0.078 mol) while keeping the temperature between 60°-70° C. All was stirred at 55° C. over 20 hours. The cooled solution was quenched by the dropwise addition of a solution of sodium bisulfite (25%, 330 mL). The mixture was then transferred to a beaker and acidified by the careful addition of concentrated hydrochloric acid. The resulting solid was collected, washed with water and dried, then triturated sequentially with chlorobutane and hexane to give 4-carboxyphenylbutyric acid (15.31 g, 0.074 mol, 95%) as a white solid. mp=190°-195° C.; 1H NMR (DMSO) d 12.55 (bs, 1H), 8.1 (s, 1H), 7.85 (d, 2H, J=8.1 Hz), 7.3 (d, 2H, J=8.1 Hz), 2.7 (t, 2H, J=7.5 Hz), 2.2 (t, 2H, J=7.4 Hz), 1.8 (quintet, 2H, J=7.5 Hz).

reactant | sodium hypochlorite | 0.234 mol, 330 mL, 17.32 g | Cl[O-].[Na+]
reactant | sodium hydroxide | 172 mL | [OH-].[Na+]
reactant | 4-acetylphenylbutyric acid | 0.078 mol, 16.0 g | C(C)(=O)C1=CC=C(C=C1)C(C(=O)O)CC | C12H14O3
product | 4-carboxyphenylbutyric acid | 0.074 mol, 15.31 g, 95% | C(=O)(O)C1=CC=C(C=C1)C(C(=O)O)CC | C11H12O4
